US05658923
Triethylamine 29.3 μl was added to a methylene chloride 1 ml solution of (IS)-1,8,8-trimethyl-3-azabicyclo[3.2.1]octane hydrochloride 33.7 mg and stirred at 0° C. for 30 min. 5-methoxy-2-adamantyl acetic acid 36.2 mg and WSC 40.3 mg were added therein, then temperature of the reaction mixture was gradually changed to room temperature and stirred for 20.5 hours. The reaction mixture was washed with saturated aqueous sodium chloride solution and dried by anhydrous sodium sulfate. After filtering the drying agent, the filtrate was concentrated in vacuo to obtain crude (IS)-3-(5-methoxy-2-adamantylacetyl)-1,8,8-trimethyl-3-azabicyclo[3.2.1]octane. The concentrate was added to THF 3 ml solution of lithium aluminum hydride 7.4 mg and refluxed under heating for 1.5 hours. The reaction mixture was cooled, then water was added thereto and then insoluble material was removed by filtration. The filtrate was concentrated in vacuo. The thus obtained residue was purified by means of silica gel column chromatography (Wako gel, C200, chloroform:acetone=20:1-10:1) to obtain the product.

reactant | Triethylamine | 29.3 μl | C(C)N(CC)CC | C6H15N
reactant | (IS)-1,8,8-trimethyl-3-azabicyclo[3.2.1]octane hydrochloride | 33.7 mg | Cl.C[C@]12CNCC(CC1)C2(C)C
reactant | 5-methoxy-2-adamantyl acetic acid | 36.2 mg | COC12CC3C(C(CC(C1)C3)C2)CC(=O)O | C13H20O3
reactant | WSC | 40.3 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | (IS)-3-(5-methoxy-2-adamantylacetyl)-1,8,8-trimethyl-3-azabicyclo[3.2.1]octane | COC12CC3C(C(CC(C1)C3)C2)CC(=O)N2C[C@]3(CCC(C2)C3(C)C)C | C23H37NO2
